US08071588B2
Process (A) A mixture of N1-{[3-bromo-4-(methyloxy)phenyl]methyl}-N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,1-cyclopropanedicarboxamide (50 mg, 0.081 mmol), 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate (25.7 mg, 0.081 mmol), Na2CO3 (25.9 mg, 0.244 mmol) and PdCl2(dppf) (5.96 mg, 8.15 μmol) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and was then heated in a Biotage microwave at normal absorption for 10 min at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain the crude residue. It was purified by reverse phase hplc with a Gilson HPLC (acidic conditions: 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were dried using a EZ2 GeneVac evaporator and then combined to give 1,1-dimethylethyl 4-{[5′-{[({1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropyl}carbonyl)amino]methyl}-2′-(methyloxy)-3-biphenylyl]methyl}-1-piperidinecarboxylate. It was re-dissolved in 25% TFA in DCM (2 mL) and stirred at room temperature for 2 h. Solvent was evaporated under a stream of nitrogen and then purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 60% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and washed with saturated NaHCO3 and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-{[6-(methyloxy)-3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-1,1-cyclopropanedicarboxamide as a solid (22 mg, 38.1%). LC-MS m/z 709 (M+H)+, 0.81 min (ret time); 1H NMR (400 MHz, DMSO-d6) δ 1.03-1.26 (m, 5H) 1.29-1.36 (m, 7H) 1.41-1.66 (m, 5H) 1.84-1.91 (m, 2H) 2.44-2.51 (m, 2H) 2.83 (q, J=7.53 Hz, 2H) 2.94-3.00 (m, 2H) 3.49-3.56 (m, 2H) 3.71 (s, 3H) 3.80-3.87 (m, 2H) 4.03-4.09 (m, 1H) 4.24 (d, J=5.52 Hz, 2H) 4.31 (q, J=7.28 Hz, 2H) 4.38 (d, J=6.27 Hz, 2H) 6.71-6.78 (m, 1H) 7.00 (d, J=8.28 Hz, 1H) 7.06-7.34 (m, 6H) 7.99 (s, 1H) 8.43 (t, J=5.77 Hz, 1H) 9.03 (t, J=5.77 Hz, 1H).

reactant | N1-{[3-bromo-4-(methyloxy)phenyl]methyl}-N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,1-cyclopropanedicarboxamide | 0.081 mmol, 50 mg | BrC=1C=C(C=CC1OC)CN(C(=O)C1(CC1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C29H37BrN6O4
reactant | 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate | 0.081 mmol, 25.7 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H36BNO4
reactant | Na2CO3 | 0.244 mmol, 25.9 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 8.15 μmol, 5.96 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl 4-{[5′-{[({1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropyl}carbonyl)amino]methyl}-2′-(methyloxy)-3-biphenylyl]methyl}-1-piperidinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)OC)CC | C46H61N7O6
